US03986860
Ethyl 4-benzyloxymethyl-2,4-dimethyl-1,3-dioxolan-2-carboxylate
Dry hydrogen chloride gas was passed into a mixture of 3-benzyloxy-2-methylpropane-1,2-diol (14.9 grams) and ethyl pyruvate (9.15 grams) for 1 hour. The mixture was heated at 90° C for a further 1 hour and then cooled to 50° C. Benzene (100 milliliters) was added to the mixture and the water formed in the reaction was removed azeotropically. The cooled solution was washed with potassium carbonate solution and dried. The solvent was removed under reduced pressure and the residue was fractionally distilled to yield the desired product boiling point 124-126° C at 0.3 Torr.

reactant | hydrogen chloride | Cl | ClH
reactant | 3-benzyloxy-2-methylpropane-1,2-diol | 14.9 grams | C(C1=CC=CC=C1)OCC(CO)(O)C | C11H16O3
reactant | ethyl pyruvate | 9.15 grams | C(C(=O)C)(=O)OCC | C5H8O3
reactant | Benzene | 100 milliliters | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | Ethyl 4-benzyloxymethyl-2,4-dimethyl-1,3-dioxolan-2-carboxylate | C(C1=CC=CC=C1)OCC1(OC(OC1)(C(=O)OCC)C)C | C16H22O5
